US07595398B2
A solution of 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (3.9837 g, 15.67 mmol), 4-bromo-N-cyclopropyl-benzamide (1.2516 g, 5.21 mmol), potassium acetate (1.5353 g, 15.64 mmol), and Pd(PPh3)2Cl2 (0.3677 g, 10.0 mol %) in DMSO (30 mL) was degassed and heated to 80° C. overnight in a sealed vial. The reaction was cooled, and distilled water and brine were added. The mixture was centrifuged, and the liquid was decanted. The resulting solid was purified by silica gel chromatography to give N-cyclopropyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide.

reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 15.67 mmol, 3.9837 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | 4-bromo-N-cyclopropyl-benzamide | 5.21 mmol, 1.2516 g | BrC1=CC=C(C(=O)NC2CC2)C=C1 | C10H10BrNO
reactant | potassium acetate | 15.64 mmol, 1.5353 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
catalyst | Pd(PPh3)2Cl2 | 0.3677 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-cyclopropyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide | C1(CC1)NC(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H22BNO3
